US07345178B2
In a typical run, 3-nitro-5-(oxazolo[4,5-b]pyridin-2-yl)benzoic acid (770 mg, 2.70 mmol) was suspended in 50 mL of anhydrous THF and cooled in an ice bath along with NMM (0.3 mL, 2.70 mmol). Isobutyl chloroformate (0.35 mL, 2.70 mmol) was added and the reaction mixture was stirred at 0° C. for 1 hour. A solution of NaBH4 (102 mg, 2.70 mmol) in 6 mL of water was then added at 0° C. and the reaction mixture was stirred at the same temperature for 45 min. It was then concentrated and the resulting residue was diluted with 10 mL of water. The aqueous layer was extracted with CH2Cl2. The organic layer was dried (Na2SO4) and concentrated to afford 500 mg of (3-nitro-5-oxazolo[4,5-b]pyridin-2-yl-phenyl)-methanol (68% yield, >95% pure by LC/MS).

reactant | 3-nitro-5-(oxazolo[4,5-b]pyridin-2-yl)benzoic acid | 2.70 mmol, 770 mg | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C=1OC=2C(=NC=CC2)N1 | C13H7N3O5
reactant | NMM | 2.70 mmol, 0.3 mL | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 2.70 mmol, 0.35 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 2.70 mmol, 102 mg | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | (3-nitro-5-oxazolo[4,5-b]pyridin-2-yl-phenyl)-methanol | 500 mg, 68% yield | [N+](=O)([O-])C=1C=C(C=C(C1)C=1OC=2C(=NC=CC2)N1)CO | C13H9N3O4
